US08557872B2
Step 3: Synthesis of N-methoxy-N-methyl-2-propylamino-4-trifluoromethyl-benzamide
2-Propylamino-4-(trifluoromethyl)benzoic acid (147 mg, 0.594 mmol) in CH2Cl2 was reacted with N,O-dimethylhydroxy amine (82 mg), NMM (0.2 ml) and DMTMM (222 mg) at room temperature overnight. The reaction mixture was quenched by adding H2O (3 ml). The reaction solvent was removed under reduced pressure. Water (30 ml) was added to the resulting residue, which was extracted with ethylacetate (30 ml×3). The combined organic layer was washed with sat. NaHCO3 solution (30 ml), 1N HCl aqueous solution (30 ml) and brine (30 ml), and then dried over MgSO4. The filterate was concentrated in vacuo. The residue was purified with column chromatography to yield the title compound (98 mg, 57%).

reactant | 2-Propylamino-4-(trifluoromethyl)benzoic acid | 0.594 mmol, 147 mg | C(CC)NC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C11H12F3NO2
reactant | N,O-dimethylhydroxy amine | 82 mg | CNOC | C2H7NO
reactant | NMM | 0.2 ml | CN1CCOCC1 | C5H11NO
reactant | DMTMM | 222 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-methoxy-N-methyl-2-propylamino-4-trifluoromethyl-benzamide | 98 mg, 57% | CON(C(C1=C(C=C(C=C1)C(F)(F)F)NCCC)=O)C | C13H17F3N2O2
